US09376444B2
Diethyl(2-chloro-2-oxoethyl)phosphonate
To a solution of 2-(diethoxyphosphoryl)acetic acid (0.1 mL, 0.622 mmol) in CH2Cl2 (1 mL) was added oxalyl dichloride (2 M in DCM) (0.622 mL, 1.244 mmol), followed by a drop of DMF. The reaction was stirred at rt for 2.5 h and concentrated in vacuo to yield the desired product as yellow oil. 1H NMR (500 MHz, CHLOROFORM-d) δ 4.24 (dq, J=8.4, 7.1 Hz, 4H), 3.55-3.47 (d, J=21.46 Hz, 2H), 1.42-1.38 (t, J=7.4 Hz, 6H).

reactant | 2-(diethoxyphosphoryl)acetic acid | 0.622 mmol, 0.1 mL | C(C)OP(=O)(OCC)CC(=O)O | C6H13O5P
reactant | oxalyl dichloride | 1.244 mmol, 2 M, 0.622 mL | C(C(=O)Cl)(=O)Cl | C2Cl2O2
reactant | DMF | CN(C)C=O | C3H7NO
solvent | CH2Cl2 | 1 mL | C(Cl)Cl | CH2Cl2
product | Diethyl(2-chloro-2-oxoethyl)phosphonate | C(C)OP(OCC)(=O)CC(=O)Cl | C6H12ClO4P
